US06680334B2
Isolation of Amorphous Amlodipine Free Base
Amlodipine besylate (30 g) was slurried into a mixture of dichloromethane/water (1:1, 500 ml) and the rapidly slurred emulsion was basified to pH 11 with aqueous sodium hydroxide (5M). The resulting organic layer was separated and the remaining aqueous layer extracted with dichloromethane (100 ml). The combined extracts were washed with water (150 ml) dried (MgSO4) and evaporated in vacuo to afford an off-white solid (20.3 g).

reactant | Amlodipine besylate | 30 g | CCOC(=O)C1=C(NC(=C(C1C=2C=CC=CC2Cl)C(=O)OC)C)COCCN.C=1C=CC(=CC1)S(=O)(=O)O
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | dichloromethane water | 500 ml | ClCCl.O
product | Amlodipine Free Base | 20.3 g | CCOC(=O)C1=C(NC(=C(C1C2=CC=CC=C2Cl)C(=O)OC)C)COCCN | C20H25ClN2O5
